US05688795
A mixture of copper(I) iodide (1.18 g, 6.2 mmol) in 5 mL of THF was cooled to -40° C. and then tert-butyllithium (8.85 mL, 1.4M, 12.4 mmol) was added. The mixture was stirred for 1 hour and 2-chloronicotinic acid chloride (2 g, 11.3 mmol) was added dropwise. The mixture was stirred at -40° C. for 1.5 hours and then allowed to warm to room temperature. The mixture was quenched with water and then diluted with ethyl acetate. The mixture was filtered, washed with water (2×10 mL) and brine, dried (Na2SO4) and concentrated. The residue was purified on silica gel by flash chromatography eluting with hexanes/ethyl acetate (85:15) to give 1-(2-chloro-3-pyridyl)-2,2-dimethylpropan-1-one (1.735 g, 8.8 mmol) as an oil.

reactant | tert-butyllithium | 12.4 mmol, 1.4M, 8.85 mL | C(C)(C)(C)[Li]
reactant | 2-chloronicotinic acid chloride | 11.3 mmol, 2 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | copper(I) iodide | 6.2 mmol, 1.18 g | [Cu]I
product | 1-(2-chloro-3-pyridyl)-2,2-dimethylpropan-1-one | 8.8 mmol, 1.735 g | ClC1=NC=CC=C1C(C(C)(C)C)=O | C10H12ClNO
